* Delay stimulus for period of 0n load=0fF slew=0ns

* TT process corner
.include "/class/ece411/OpenRAM/technology/freepdk45/models/tran_models/models_nom/PMOS_VTG.inc"
.include "/class/ece411/OpenRAM/technology/freepdk45/models/tran_models/models_nom/NMOS_VTG.inc"
.include "/tmp/openram_jup2_85381_temp/trimmed.sp"

* Global Power Supplies
Vvdd vdd 0 5

*Nodes gnd and 0 are the same global ground node in ngspice/hspice/xa. Otherwise, this source may be needed.
*Vgnd gnd 0 0.0

* Instantiation of the SRAM
Xmp_cache_tag_array din0_0 din0_1 din0_2 din0_3 din0_4 din0_5 din0_6 din0_7 din0_8 din0_9 din0_10 din0_11 din0_12 din0_13 din0_14 din0_15 din0_16 din0_17 din0_18 din0_19 din0_20 din0_21 din0_22 din0_23 a0_0 a0_1 a0_2 a0_3 CSB0 WEB0 clk0 dout0_0 dout0_1 dout0_2 dout0_3 dout0_4 dout0_5 dout0_6 dout0_7 dout0_8 dout0_9 dout0_10 dout0_11 dout0_12 dout0_13 dout0_14 dout0_15 dout0_16 dout0_17 dout0_18 dout0_19 dout0_20 dout0_21 dout0_22 dout0_23 vdd gnd mp_cache_tag_array

* SRAM output loads
CD00 dout0_0 0 0f
CD01 dout0_1 0 0f
CD02 dout0_2 0 0f
CD03 dout0_3 0 0f
CD04 dout0_4 0 0f
CD05 dout0_5 0 0f
CD06 dout0_6 0 0f
CD07 dout0_7 0 0f
CD08 dout0_8 0 0f
CD09 dout0_9 0 0f
CD010 dout0_10 0 0f
CD011 dout0_11 0 0f
CD012 dout0_12 0 0f
CD013 dout0_13 0 0f
CD014 dout0_14 0 0f
CD015 dout0_15 0 0f
CD016 dout0_16 0 0f
CD017 dout0_17 0 0f
CD018 dout0_18 0 0f
CD019 dout0_19 0 0f
CD020 dout0_20 0 0f
CD021 dout0_21 0 0f
CD022 dout0_22 0 0f
CD023 dout0_23 0 0f

* Generation of data and address signals
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_0  din0_0  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_1  din0_1  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_2  din0_2  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_3  din0_3  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_4  din0_4  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_5  din0_5  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_6  din0_6  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_7  din0_7  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_8  din0_8  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_9  din0_9  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_10  din0_10  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_11  din0_11  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_12  din0_12  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_13  din0_13  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_14  din0_14  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_15  din0_15  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_16  din0_16  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_17  din0_17  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_18  din0_18  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_19  din0_19  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_20  din0_20  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_21  din0_21  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_22  din0_22  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_23  din0_23  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1)]
Va0_0 a0_0 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1)]
Va0_1 a0_1 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1)]
Va0_2 a0_2 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1)]
Va0_3 a0_3 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )

* Generation of control signals
* (time, data): [(0, 1), (0, 0), (0, 0), (0, 1), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 0), (0, 1), (0, 0), (0, 0), (0, 1)]
VCSB0 CSB0 0 PWL (0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v )
* (time, data): [(0, 1), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1)]
VWEB0 WEB0 0 PWL (0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )

* Generation of Port clock signal
* PULSE: period=0
VCLK0 CLK0 0 PULSE (0 5 0n 0n 0n 0.0n 0n)
.include /home/jup2/ece411_mp_ooo/sp24_ece411_Unemployed_Trio/mp_ooo/sram/output/mp_cache_tag_array/delay_meas.sp
* Measure statements for delay and power

* probe is used for hspice/xa, while plot is used in ngspice
*.probe V(*)
*.plot V(*)
.end

